US04173650
A 10.0 g. portion of α-bromo-o-methoxyacetophenone is suspended in 50 ml. of ethanol. A solution of 6.4 g. of sodium cyanide in 30 ml. of water is added as described in Example 38. Following the procedure of Example 38, there is obtained o-methoxybenzoylacetonitrile.

reactant | α-bromo-o-methoxyacetophenone | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | water | O | H2O
product | o-methoxybenzoylacetonitrile | COC1=C(C(=O)CC#N)C=CC=C1 | C10H9NO2
